US05798368
A mixture of 16.25 g of 2,6-dioxopiperidin-3-ammonium chloride, and 30.1 g of methyl 2-bromomethyl-3,4,5,6-tetrafluorobenzoate, and 12.5 g of triethylamine in 100 mL of dimethylformamide is stirred at room temperature for 15 hours. The mixture is then concentrated in vacuo and the residue mixed with methylene chloride and water. The aqueous layer is separated and back-extracted with methylene chloride. The combined methylene chloride solutions are dried over magnesium sulfate and concentrated in vacuo to give 1-oxo-2-(2,6-dioxopiperidin-3-yl)-4,5,6,7-tetrafluoroisoindoline.

reactant | 2,6-dioxopiperidin-3-ammonium chloride | 16.25 g | C1CC(=O)NC(=O)C1N.Cl
reactant | methyl 2-bromomethyl-3,4,5,6-tetrafluorobenzoate | 30.1 g | BrCC1=C(C(=O)OC)C(=C(C(=C1F)F)F)F | C9H5BrF4O2
reactant | triethylamine | 12.5 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 1-oxo-2-(2,6-dioxopiperidin-3-yl)-4,5,6,7-tetrafluoroisoindoline | O=C1N(CC2=C(C(=C(C(=C12)F)F)F)F)C1C(NC(CC1)=O)=O | C13H8F4N2O3
